Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
rash
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year-old with the history below who presented
to ED today complaining of five days of fever (to 38.8 C at 
home)
and painful rash of buttocks and gluteal cleft.  He saw his
primary md and ___ dermatologist recently.  Per pt. the
dermatologist gave him valacyclovir for rash felt to be 
herpetic.
He was sent to the ED for evaluation by his primary MD over
concern that he is noncompliant with medications; apparently per
ED he was also seen by ID (?) who recommended Keflex and
acyclovir;   In the ED here he was afebrile and hemodynamically
stable.
 
Past Medical History:
HTN
Depression
Spinal stenosis
Hx ccy and spinal surgery of c/s
BPH s/p turp per pt times two                       

 
Social History:
___
Family History:
Denies history of significant illnesses. 

 
Physical Exam:
 Afebrile and vital signs stable (reviewed in bedside record)
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no supraclavicular or cervical lymphadenopathy, no JVD,
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema
Skin: warm,/no jaundice/no skin ulcerations noted - buttocks 
with
indurated regions near cleft, rt upper buttock and smaller on
left of induration, warmth, erythema, ttp; no vescicular lesions
seen
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  Cn II-XII intact.  ___ strength throughout.  
No
sensory deficits to light touch appreciated.  No pass-pointing 
on
finger to nose.  2+DTR's-patellar and biceps. No asterixis, no
pronator drift, fluent speech.
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

Exam on discharge:
Vitals: 97.5, 121/67, 74, 20, 97%RA
Gen: NAD, sitting up in chair and walking around the room
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, s1 s2 present, no m/r/g
Resp: CTAB, accessory muscle use
GI: soft, NT, ND, BS+
EXT: No ___ Pitting edema
Skin: +erythema in gluteal cleft with minimal induration/warmth
and no vescicular lesions seen
Neuro: AAOx3. Fluent speach
Psych: Full range of affect

 
Pertinent Results:
___ 04:20PM   PLT COUNT-213
___ 04:20PM   NEUTS-59.3 ___ MONOS-12.5 EOS-1.3 
BASOS-0.4 IM ___ AbsNeut-7.78* AbsLymp-3.37 AbsMono-1.64* 
AbsEos-0.17 AbsBaso-0.05
___ 04:20PM   WBC-13.1* RBC-4.11* HGB-13.3* HCT-39.7* 
MCV-97 MCH-32.4* MCHC-33.5 RDW-12.0 RDWSD-42.1
___ 04:20PM   CRP-93.8*
___ 04:20PM   estGFR-Using this
___ 04:20PM   GLUCOSE-104* UREA N-32* CREAT-1.6* SODIUM-138 
POTASSIUM-3.3 CHLORIDE-98 TOTAL CO2-26 ANION GAP-17
___ 04:30PM URINE  MUCOUS-RARE
___ 04:30PM URINE  RBC-4* WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 04:30PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 04:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___

 
Brief Hospital Course:
This is a ___ male with likely cellulitis of the buttocks. 

# Cellulitis of the buttocks and gluteal cleft: 
___ have started due to herpes but the history is not convincing 
given he does not have a vesicular rash and the rash crosses the 
midline. It may have started as folliculitis. The patient was 
treated with IV clindamycin with resolution of fever and 
improvement in rash. He was discharged home on oral clindamycin 
to complete a 10 day course. Valacyclovir was discontinued as no 
evidence of vesicular rash,.

#Acute renal failure
Unclear baseline, creatinine was 1.6 on admission, improved to 
1.3 on discharge. Advised to follow up with PCP this week for 
creatinine check

# HTN: Continued home medications

# Depression: Continued home medications. 

Transitional issues:
- Follow up Chem-7 this week to asses renal function
- Advised patient to schedule PCP follow up to asses for 
resolution of cellulitis
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pristiq (desvenlafaxine succinate) 50 mg oral DAILY 
2. Tribenzor (olmesartan-amLODIPin-hcthiazid) 40-10-25 mg oral 
DAILY 

 
Discharge Medications:
1. Pristiq (desvenlafaxine succinate) 50 mg oral DAILY 
2. Tribenzor (olmesartan-amLODIPin-hcthiazid) 40-10-25 mg oral 
DAILY 
3. Clindamycin 300 mg PO Q6H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth Q6hrs Disp #*28 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___, 

It was a pleasure taking care of you while you were in the 
hospital. You were admitted with an infection. You were treated 
with antibiotics. Your kidney function was also checked was 
high, although this may be normal for you. Please discuss 
further with your PCP.

It is important to take your medications as directed. Please 
follow up with your primary care doctor in the ___ days.
 
Followup Instructions:
___